US05919793
2-Methoxyethanol (5.0 g) was added to a stirred suspension of sodium hydride (2.64 g of a 60% mineral oil suspension) in DHF (200 ml) at room temperature and under a atmosphere of argon. The stirred mixture was heated to 60° C. and then cooled to 5° C. A solution of 4-bromo-2-fluorobenzyl bromide (15 g) in dichlorobenzene (75 ml) was added over 15 minutes. The mixture stirred for 12 hours at room temperature, then for 1 hour at 60° C. and cooled. The mixture was diluted with iced water (600 ml) and extracted with ethyl acetate (3×200 ml). The combined extracts were washed with 2M hydrochloric acid (100 ml), water (2×100 ml), saturated brine (100 ml) and dried (MgSO4). Evaporation of the solvents gave an oil which was distilled using a short path distillation apparatus to give 1-(4-bromo-2-fluorobenzyloxy)-2-methyoxyethane (11.6 g), furnace temperature 125° C./0.01 bar; NMR (CDCl3): 3.40(3H, s), 3.5-3.7(4H, m), 4.58(2H, s) and 7.2-7.4(3H, m).

reactant | 2-Methoxyethanol | 5.0 g | COCCO | C3H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-bromo-2-fluorobenzyl bromide | 15 g | BrC1=CC(=C(CBr)C=C1)F | C7H5Br2F
solvent | dichlorobenzene | 75 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
solvent | water | 600 ml | O | H2O
product | 1-(4-bromo-2-fluorobenzyloxy)-2-methyoxyethane | 11.6 g | BrC1=CC(=C(COCCOC)C=C1)F | C10H12BrFO2
